US06599925B2
A solution of 2-hydroxy-3-phenylpropanoic acid (2.10 g, 12.6 mmol) in ethanol (50 mL) was saturated with gaseous hydrochloric acid and allowed to stand at room temperature overnight. The reaction mixture was poured into water, neutralized with solid sodium hydrogen carbonate and extracted with ethyl acetate. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated to give ethyl 2-hydroxy-3-phenylpropanoate as a peach-colored oil (2.00 g, 82%); 1HNMR (200 MHz, DMSO-d6): δ7.15-7.35 (m, 5H), 5.4-5.6 (br, 1H), 4.15-4.3 (br, 1H), 4.05 (q, 2H, J=7.3 Hz), 2.75-3.0 (m, 2H), and 1.2 ppm (t, 3H, J=7.4 Hz).

reactant | 2-hydroxy-3-phenylpropanoic acid | 12.6 mmol, 2.10 g | OC(C(=O)O)CC1=CC=CC=C1 | C9H10O3
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 2-hydroxy-3-phenylpropanoate | 2.00 g, 82% | OC(C(=O)OCC)CC1=CC=CC=C1 | C11H14O3
